US05616610
f) (R)-3-(N-tert-Butyl-N-n-propylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran
(R)-3-(N-tert-Butyl-N-n-propylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran (1.0 g, 3.6 mmol) and 2,4,6-collidine (0.52 mL, 3.9 mmol) were dissolved in anhydrous methylene chloride (40 mL) and cooled to 30° C. Trifluoromethanesulfonic anhydride (0.66 mL, 3.9 mmol) dissolved in anhydrous methylene chloride (10 mL) was added dropwise during 20 min. The solution was allowed to warm to ambient temperature and after coming to 0° C. the reaction was done. The reaction was diluted with methylene chloride and washed with saturated aqueous NaHCO3 (50 mL). The aqueous phase was re-extracted with ether (2×40 mL). The combined organic phases were dried (MgSO4), filtered, and concentrated in vacuo to give a crude residue. Flash chromatography on silica [eluent: EtOAc-hexane (3:97)] gave 1.40 g (95% yield) of the title compound as a colourless oil. [α]21D =-73.7° (C=1.1; CHCl3). GC-MS (70 eV) M=413 (1%).

reactant | (R)-3-(N-tert-Butyl-N-n-propylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran | 3.6 mmol, 1.0 g | C(C)(C)(C)N(CCC)[C@H]1COC2=C(C1)C(=CC=C2F)O | C16H24FNO2
reactant | 2,4,6-collidine | 3.9 mmol, 0.52 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | Trifluoromethanesulfonic anhydride | 3.9 mmol, 0.66 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(N-tert-Butyl-N-n-propylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran | 1.40 g, 95% yield | C(C)(C)(C)N(CCC)[C@H]1COC2=C(C1)C(=CC=C2F)OS(=O)(=O)C(F)(F)F | C17H23F4NO4S
